US04524071
B. 2-[[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-5-phenyl-4(3H)-pyrimidinone
A mixture of 2-(methylthio)-5-phenyl-4(3H)-pyrimidinone (1.09 g) and 5-[[(2-aminoethyl)thio]methyl]-N,N-dimethyl-2-furanmethanamine (2.14 g) was heated at 140° for 4 h. The cooled residue was chromatographed (silica/ethyl acetate-methanol, 1:1) to give a product which was crystallised from methyl acetate-light petroleum (b.p. 60°-80°) yielding the title compound (1.52 g) m.p. 116°-118°.

reactant | 2-(methylthio)-5-phenyl-4(3H)-pyrimidinone | 1.09 g | CSC1=NC=C(C(N1)=O)C1=CC=CC=C1 | C11H10N2OS
reactant | 5-[[(2-aminoethyl)thio]methyl]-N,N-dimethyl-2-furanmethanamine | 2.14 g | NCCSCC1=CC=C(O1)CN(C)C | C10H18N2OS
product | 2-[[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-5-phenyl-4(3H)-pyrimidinone | 1.52 g | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)C1=CC=CC=C1 | C20H24N4O2S
